US09290511B2
iii) 2-[[2-(5-isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethanol
4-Chloro-5-isopropyl-thieno[2,3-d]pyrimidine (0.35 g, 1.6 mmol), 2-(2-azabicyclo[2.2.1]heptan-5-yloxy)ethanol (0.39 g, 2.5 mmol), triethylamine (0.50 g, 0.70 mL, 4.9 mmol) and ethanol (3.95 g, 5 mL, 85.6 mmol) were combined and heated to 50° C. overnight. The reaction mixture was concentrated in vacuo. The resulting residue was taken up in DCM, washed with water, dried over Na2SO4 and concentrated in vacuo to afford

reactant | 4-Chloro-5-isopropyl-thieno[2,3-d]pyrimidine | 1.6 mmol, 0.35 g | ClC=1C2=C(N=CN1)SC=C2C(C)C | C9H9ClN2S
reactant | 2-(2-azabicyclo[2.2.1]heptan-5-yloxy)ethanol | 2.5 mmol, 0.39 g | C12NCC(C(C1)OCCO)C2 | C8H15NO2
reactant | triethylamine | 4.9 mmol, 0.70 mL, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 85.6 mmol, 5 mL, 3.95 g | C(C)O | C2H6O
product | 2-[[2-(5-isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethanol | C(C)(C)C1=CSC=2N=CN=C(C21)N2C1CC(C(C2)C1)OCCO | C17H23N3O2S
